US08212045B2
O,N-dimethylhydroxylamine hydrochloride (74.6 g, 765 mmol) was dissolved in THF (1 L) and pyridine (123 ml, 1531 mmol) was added and stirred for 30 minutes. Methacryloyl chloride (37.4 ml, 383 mmol) was added slowly and stirred overnight. The solids were filtered and concentrated. The residue was partitioned between water and CH2Cl2, washed with water, dried over sodium sulfate, filtered and concentrated to afford N-methoxy-N-methylmethacrylamide (56.5 g, 335 mmol, 87.5% yield).

reactant | O,N-dimethylhydroxylamine hydrochloride | 765 mmol, 74.6 g | Cl.CONC
reactant | pyridine | 1531 mmol, 123 ml | N1=CC=CC=C1 | C5H5N
reactant | Methacryloyl chloride | 383 mmol, 37.4 ml | C(C(=C)C)(=O)Cl | C4H5ClO
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | N-methoxy-N-methylmethacrylamide | 335 mmol, 56.5 g, 87.5% yield | CON(C(C(=C)C)=O)C | C6H11NO2
